US20010056109A1
(a) 1-(3-Benzyl-3H-imidazol-4-yl)-4,4-diphenylbutan-1-ol
Magnesium turnings (0.5 g) were covered with dry tetrahydrofuran (4 ml). 1-Bromo-3,3-diphenylpropane (5.6 g) in 20 ml of dry tetrahydrofuran was added dropwise. The mixture was stirred at reflux for one hour. After being cooled to room temperature, 3-benzyl-3H-imidazole-4-carbaldehyde (3.8 g) in 20 ml of dry tetrahydrofuran was added dropwise to the Grignard reagent and the mixture was refluxed for two hours. The cooled reaction mixture was poured into a cold diluted hydrochloric acid solution. Work-up of the mixture gave the crude product, which was converted to its hydrochloride salt in ethyl acetate using dry hydrochloric acid.

reactant | Magnesium | 0.5 g | [Mg] | Mg
reactant | 1-Bromo-3,3-diphenylpropane | 5.6 g | BrCCC(C1=CC=CC=C1)C1=CC=CC=C1 | C15H15Br
reactant | 3-benzyl-3H-imidazole-4-carbaldehyde | 3.8 g | C(C1=CC=CC=C1)N1C=NC=C1C=O | C11H10N2O
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 1-(3-Benzyl-3H-imidazol-4-yl)-4,4-diphenylbutan-1-ol | C(C1=CC=CC=C1)N1C=NC=C1C(CCC(C1=CC=CC=C1)C1=CC=CC=C1)O | C26H26N2O
